US04845113
A solution of 2-phenyl-1-cyclopropanecarboxylic acid chloride (15 g) in 1,2-dichloroethane (70 ml) is added at 0° C. to a solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (Meldrum's acid, 12 g) and pyridine (13.2 g) in 1,2-dichloroethane (70 ml) and the solution is stirred at room temperature for one hour. A 2N water solution of H2SO4 (20 ml) is then added, the two layers are separated and the organic phase is washed twice with water (50 ml), dryed on Na2SO4 and evaporated in vacuum. The residue is dissolved in EtOH (150 ml), heated to the reflux temperature for two hours and evaporated to dryness to give almost pure ethyl 3-(2-phenyl-1-cyclopropyl)-3-oxo-propanoate (21 g).

reactant | 2-phenyl-1-cyclopropanecarboxylic acid chloride | 15 g | C1(=CC=CC=C1)C1C(C1)C(=O)Cl | C10H9ClO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 12 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 13.2 g | N1=CC=CC=C1 | C5H5N
reactant | H2SO4 | 20 ml | OS(=O)(=O)O | H2O4S
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
solvent | water | 2N | O | H2O
product | ethyl 3-(2-phenyl-1-cyclopropyl)-3-oxo-propanoate | 21 g | C1(=CC=CC=C1)C1C(C1)C(CC(=O)OCC)=O | C14H16O3
